US05523424
A mixture of 3-chloromethyl-3-methyloxetane (10.1 g, 83.5 mmol), tetra-n-butylammonium bromide (0.308 g, 0.96 mmol), sodium azide (6.5 g, 100 mmol) and water (27 mL) was heated at about 96° C. to about 103° C. for 4.5 h, after which time gas chromatographic analysis of the mixture indicated that the reaction had reached completion. The mixture was cooled to ambient temperature, and extracted with methylene chloride (25 mL). The organic extract was passed through a column containing aluminum oxide (10 g), and the column was rinsed with additional methylene chloride. The solvent was evaporated to give 9.84 g (93% yield) of 3-azidomethyl-3methyloxetane (>99.5% purity by glc and NMR analysis). NMR: 1H NMR: δ1.32 (s, 3H), 3.52 (s, 2H), 4.25 & 4.35 (AB, J=6.0 Hz, 4H); 13C NMR: δ21.44, 58.33, 40.03, 79.76; glc Rt= 3.19 min.

reactant | 3-chloromethyl-3-methyloxetane | 83.5 mmol, 10.1 g | ClCC1(COC1)C | C5H9ClO
reactant | sodium azide | 100 mmol, 6.5 g | [N-]=[N+]=[N-].[Na+]
catalyst | tetra-n-butylammonium bromide | 0.96 mmol, 0.308 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 27 mL | O | H2O
product | 3-azidomethyl-3methyloxetane | 9.84 g, 93% yield | N(=[N+]=[N-])CC1(COC1)C | C5H9N3O
